US07855297B2
By the reaction and treatment in the same manner as in Example 1 using 1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (0.5 g) and [(1-ethylpyrazol-4-yl)methyl](4-isopropylphenyl)amine (0.57 g) as starting materials, N-[(1-ethylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.12 g) was obtained. melting point: 75-76° C.

reactant | 1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 0.5 g | C1(CCCC2=CC=CC=C12)C(=O)O | C11H12O2
reactant | [(1-ethylpyrazol-4-yl)methyl](4-isopropylphenyl)amine | 0.57 g | C(C)N1N=CC(=C1)CNC1=CC=C(C=C1)C(C)C | C15H21N3
product | N-[(1-ethylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.12 g | C(C)N1N=CC(=C1)CN(C(=O)C1CCCC2=CC=CC=C12)C1=CC=C(C=C1)C(C)C | C26H31N3O
